US08791102B2
Step (a) A flask was charged with (S)-benzyl 4-(2-(1H-1,2,4-triazol-1-yl)acetamido)-5-(4-(4-fluorophenoxy)phenylamino)-5-oxopentylcarbamate (700 mg, 1.25 mmol), prepared as in Example 1, palladium on carbon (10%, 70 mg) and methanol (30 mL) and the mixture was placed under a hydrogen atmosphere (balloon). The mixture was stirred 16 hours at ambient temperature and then concentrated and filtered. Product was purified from the residue by reverse phase HPLC to give (S)-2-(2-(1H-1,2,4-triazol-1-yl)acetamido)-5-amino-N-(4-(4-fluorophenoxy)phenyl)pentanamide (420 mg, 0.985 mmol, 79%) as an off-white solid.

reactant | (S)-benzyl 4-(2-(1H-1,2,4-triazol-1-yl)acetamido)-5-(4-(4-fluorophenoxy)phenylamino)-5-oxopentylcarbamate | 1.25 mmol, 700 mg | N1(N=CN=C1)CC(=O)N[C@@H](CCCNC(OCC1=CC=CC=C1)=O)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C29H29FN6O5
catalyst | palladium on carbon | 70 mg | [Pd] | Pd
solvent | methanol | 30 mL | CO | CH4O
product | (S)-2-(2-(1H-1,2,4-triazol-1-yl)acetamido)-5-amino-N-(4-(4-fluorophenoxy)phenyl)pentanamide | 0.985 mmol, 420 mg, 79% | N1(N=CN=C1)CC(=O)N[C@H](C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F)CCCN | C21H23FN6O3
